US04557871
In 12 ml of 18% aqueous hydrochloric acid was dissolved 4 g of 2-(5-amino-2-fluorophenyl)propionic acid, and 4 ml of an aqueous solution of 1.1 g of sodium nitrite was added dropwise while maintaining the temperature between -15° C. and -10° C. The mixture was stirred for an hour, to which 40 ml of acetone, 8 g of 1,1-dichloroethylene, 1250 mg of sodium hydrogen carbonate and 400 mg of cupric chloride dihydrate were successively added. The mixture was gradually warmed up to room temperature and stirred overnight. The acetone layer was separated and the solvent was evaporated off. The residue was dissolved in ether, washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated off and the residue obtained was subjected to silica gel column chromatography (eluent: n-hexane--ethyl acetate=20:1) to afford 3.9 g of 2-[2-fluoro-5-(2,2,2-trichloroethyl)phenyl]propionic acid as an oily substance.

reactant | 2-(5-amino-2-fluorophenyl)propionic acid | 4 g | NC=1C=CC(=C(C1)C(C(=O)O)C)F | C9H10FNO2
reactant | sodium nitrite | 1.1 g | N(=O)[O-].[Na+]
reactant | 1,1-dichloroethylene | 8 g | ClC(=C)Cl | C2H2Cl2
reactant | sodium hydrogen carbonate | 1250 mg | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | 12 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-[2-fluoro-5-(2,2,2-trichloroethyl)phenyl]propionic acid | 3.9 g | FC1=C(C=C(C=C1)CC(Cl)(Cl)Cl)C(C(=O)O)C | C11H10Cl3FO2
